US08470841B2
N-{3-[4-(2-Isopropoxypyrimidin-5-yloxy)phenyl]-1-methylpropyl}acetamide
5-Bromo-2-isopropoxypyrimidine (100 mg, 0.46 mmol), N-[3-(4-hydroxyphenyl)-1-methylpropyl]acetamide (95 mg, 0.46 mmol), cesium carbonate (180 mg, 0.552 mmol), copper bromide (66 mg, 0.46 mmol) were stirred in 5 ml of NMP at 160° C. under argon for 5 h. Following addition of equimolar amounts of the components stirring was continued at 160° C. for a further 3 h. The batch was filtered, the filtrate was concentrated and admixed with ethyl acetate and water, and the organic phase was separated off, concentrated and purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 3 mg (1%), M+H+: 344.23.

reactant | 5-Bromo-2-isopropoxypyrimidine | 0.46 mmol, 100 mg | BrC=1C=NC(=NC1)OC(C)C | C7H9BrN2O
reactant | N-[3-(4-hydroxyphenyl)-1-methylpropyl]acetamide | 0.46 mmol, 95 mg | OC1=CC=C(C=C1)CCC(C)NC(C)=O | C12H17NO2
reactant | cesium carbonate | 0.552 mmol, 180 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
catalyst | copper bromide | 0.46 mmol, 66 mg | [Cu](Br)Br
product | N-{3-[4-(2-Isopropoxypyrimidin-5-yloxy)phenyl]-1-methylpropyl}acetamide | C(C)(C)OC1=NC=C(C=N1)OC1=CC=C(C=C1)CCC(C)NC(C)=O | C19H25N3O3
